US05973156
Step 4: 2-(2,6-Dichlorophenyl)propanal
To a stirred solution of 2-(2,6-dichlorophenyl)propan-1-ol (278 mg, 1.4 mmol) in DMSO (6 ml) was added triethylamine (1.1 ml, 8.1 mmol) followed by pyridine-sulphur trioxide (322 mg, 2.0 mmol). After 1 h more pyridine-sulphur trioxide (161 mg, 1.0 mmol) was added and the mixture stirred for a further 1 h. The mixture was partitioned between EtOAc (3×20 ml) and water (20 ml). The combined organic layers were washed with brine (20 ml) then separated and dried (Na2SO4). The solvent was evaporated and the residue azeotroped with toluene (2×20 ml). The aldehyde was used directly without further purification. 1H NMR (250 MHz, CDCl3) δ 1.51 (3H, d, J=7.0 Hz), 4.17 (1H, q, J=7.0 Hz), 7.20 (1H, t, J=8.0 Hz), 7.33 (2H, d, J=8.5 Hz).

reactant | 2-(2,6-dichlorophenyl)propan-1-ol | 1.4 mmol, 278 mg | ClC1=C(C(=CC=C1)Cl)C(CO)C | C9H10Cl2O
reactant | triethylamine | 8.1 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine sulphur trioxide | 2.0 mmol, 322 mg | N1=CC=CC=C1.S(=O)(=O)=O
reactant | pyridine sulphur trioxide | 1.0 mmol, 161 mg | N1=CC=CC=C1.S(=O)(=O)=O
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
product | 2-(2,6-Dichlorophenyl)propanal | ClC1=C(C(=CC=C1)Cl)C(C=O)C | C9H8Cl2O
